US07179934B2
(R)-3-((2R,3R)-2,3-Dimethyl-hexanoyl)-4-phenyl-oxazolidin-2-one
To a 1M THF solution of Sodium hexamethyldisylamide (16.2 g, 88.3 mmol) at −78° C. was added via canular a 0° C. solution of (R)-3-((R)-3-methyl-hexanoyl)-4-phenyl-oxazolidin-2-one (18.7 g, 67.9 mmol) in 70 mL dry THF. The resulting solution was stirred at −78° C. for 30 minutes. Methyl Iodide (48.2 g, 339.5 mmol) was added and stirring at −78° C. was continued for 4 hours. The reaction was quenched with saturated ammonium chloride solution, extracted into CH2Cl2 and washed with 1M sodium Bisulfite. The solution was dried over MgSO4, concentrated and chromatographed in 10% ethylacetate in hexane to give the titled compound (11.1 g, 56.5% yield) as an oil. MS, m/z (relative intensity): 1H NMR (400 MHz, CDCl3) δ ppm 0.8 (t, J=7.0 Hz, 3 H) 0.9 (d, J=6.6 Hz, 3 H) 1.0 (d, J=6.8 Hz, 3 H) 1.0 (d, J=8.5 Hz, 1H) 1.1 (m, 1 H) 1.4 (m, 1 H) 1.7 (m, 1 H) 3.7 (m, 1 H) 4.2 (dd, J=8.8, 3.4 Hz, 1 H) 4.6 (t, J=8.7 Hz, 1 H) 5.4 (dd, J=8.7, 3.3 Hz, 1 H) 7.2 (m, 2 H) 7.3 (m, 3 H). MS, m/z (relative intensity):290 [M+1H, 100%].

reactant | Sodium | [Na] | Na
reactant | (R)-3-((R)-3-methyl-hexanoyl)-4-phenyl-oxazolidin-2-one | 67.9 mmol, 18.7 g | C[C@@H](CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)CCC | C16H21NO3
reactant | Methyl Iodide | 339.5 mmol, 48.2 g | CI | CH3I
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | (R)-3-((2R,3R)-2,3-Dimethyl-hexanoyl)-4-phenyl-oxazolidin-2-one | 11.1 g, 56.5% yield | C[C@@H](C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)[C@@H](CCC)C | C17H23NO3
